US05519040
n-BuLi (26.7 mL, 42.8 mmol, 1.6M) was added dropwise to a -78° C. solution of 2-bromothiazole (6.7 g, 40.8 mmol) in dry Et2O (80 mL). After stirring at -78° C. for 1 h, cyclopropanal (32 mL, 42.8 mmol) was added and the solution stirred 30 min. The reaction was quenched with water, the layers separated and the aqueous extracted with EtOAc. The combined extracts were dried (MgSO4), and condensed. The crude material was purified by flash chromatography using 40% EtOAc/hexane to give 5.98 g (95%) of 2-(1-hydroxy-1-cyclopropylmethyl)thiazole as a yellow oil.

reactant | n-BuLi | 42.8 mmol, 1.6M, 26.7 mL | [Li]CCCC
reactant | 2-bromothiazole | 40.8 mmol, 6.7 g | BrC=1SC=CN1 | C3H2BrNS
reactant | cyclopropanal | 42.8 mmol, 32 mL | C1(CC1)C=O | C4H6O
solvent | Et2O | 80 mL | CCOCC | C4H10O
product | 2-(1-hydroxy-1-cyclopropylmethyl)thiazole | 5.98 g, 95% | OC(C1CC1)C=1SC=CN1 | C7H9NOS
